### PR TITLE
[Merged by Bors] - feat(Projectivization/PSL/Stabilizer): Add stabilizer lemmas

### PR DESCRIPTION
**Pull request by Whysoserioushah**
---

- [x] depends on: #39997 
- [x] depends on: #39998 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Projectivization/PSL/Stabilizer.lean [hunk 1]
```diff
@@ -0,0 +1,140 @@
...
+    simp only [Set.mem_setOf_eq, mul_smul] at hA hB ⊢
+    rw [show A • B • w - w = ((A • (B • w) - A • w) - (B • w - w)) +
+      (B • w - w) + (A • w - w) by abel, ← smul_sub]
+    exact add_mem (add_mem (hA _) (hB w)) (hA w)
+  inv_mem' {A} hA := fun w ↦ by
+    convert neg_mem (hA (A⁻¹ • w)) using 1
+    rw [← mul_smul, mul_inv_cancel, one_smul, neg_sub]
+
+@[simp]
+lemma mem_lineStab_iff (A : Matrix.SpecialLinearGroup ι F) (L : Submodule F (ι → F)) :
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/Projectivization/PSL/Stabilizer.lean]: This should be namespaced.

File: Mathlib/LinearAlgebra/Projectivization/PSL/Stabilizer.lean [hunk 2]
```diff
@@ -0,0 +1,140 @@
...
+`PSL ι F` acting on the projective space `ℙ F (ι → F)`: the unipotent radical
+attached to the line through `p`. -/
+noncomputable abbrev PSL.iwasawaT (p : ℙ F (ι → F)) :
+    Subgroup (Matrix.ProjectiveSpecialLinearGroup ι F) :=
+  Subgroup.map (QuotientGroup.mk' _)
+    (Matrix.SpecialLinearGroup.lineStab p.submodule)
+
+open scoped Pointwise
+
+lemma PSL.smul_submodule (g : Matrix.SpecialLinearGroup ι F) (p : ℙ F (ι → F)) :
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/Projectivization/PSL/Stabilizer.lean:64]: I already forgot what we decided about the nonexisting `PSL` namespace.

Comment (riccardobrasca) [reply Mathlib/LinearAlgebra/Projectivization/PSL/Stabilizer.lean:64]: And anyway there is no PSL in the lemma.

File: Mathlib/LinearAlgebra/Projectivization/PSL/Stabilizer.lean [hunk 3]
```diff
@@ -0,0 +1,140 @@
...
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Edison Xie
+-/
+
+module
+
+public import Mathlib.LinearAlgebra.Projectivization.Action
+
+/-!
+This file contains key constructions to prove that `PSL(n, F)` is simple via
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/Projectivization/PSL/Stabilizer.lean:13]: Can you add a `# Title`?

File: Mathlib/LinearAlgebra/Projectivization/PSL/Stabilizer.lean [hunk 4]
```diff
@@ -0,0 +1,140 @@
...
+    induction x using Submodule.Quotient.induction_on with
+    | _ w => simpa [Submodule.Quotient.eq] using! hA w
+  have hdet := A.toLin'.toLinearMap.det_eq_det_mul_det L hcomap
+  rw [show LinearMap.det A.toLin'.toLinearMap = 1 by simp [toLin'_to_linearMap],
+      hres, hQ, LinearMap.det_smul, finrank_span_singleton hv, pow_one,
+      LinearMap.det_id, LinearMap.det_id, mul_one, mul_one] at hdet
+  exact hcv.trans (hdet ▸ one_smul F v)
+
+/-- The subgroup `lineStab (span F {v})` is commutative when `v ≠ 0`. -/
+lemma Matrix.SpecialLinearGroup.lineStab_isMulCommutative_of_span'
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/Projectivization/PSL/Stabilizer.lean:127]: Can this be `private`?

**Review by riccardobrasca — COMMENTED** [review]
Thanks!

bors d+

File: Mathlib/LinearAlgebra/Projectivization/PSL/Stabilizer.lean (hunk 3 above)
Comment (Whysoserioushah) [reply Mathlib/LinearAlgebra/Projectivization/PSL/Stabilizer.lean:13]: sure, added

File: Mathlib/LinearAlgebra/Projectivization/PSL/Stabilizer.lean (hunk 1 above)
Comment (Whysoserioushah) [reply Mathlib/LinearAlgebra/Projectivization/PSL/Stabilizer.lean]: good point, added
